US07915281B2
A solution of N-[2-chloro-4-(prop-2-ynylamino)quinolin-3-yl]-2-ethoxyacetamide (26.7 g, 84.0 mmol) and triethylamine (17.5 mL, 126 mmol) in ethanol (250 mL) was heated at 60° C. for 1.7 days. Additional triethylamine (17.5 mL) was added and the solution was heated at 60° C. for two more days. The volatiles were removed under reduced pressure and the resulting white solid was triturated with water, isolated by filtration, and dried to provide 4-chloro-2-(ethoxymethyl)-1-prop-2-ynyl-1H-imidazo[4,5-c]quinoline (24.2 g, 96%).

reactant | N-[2-chloro-4-(prop-2-ynylamino)quinolin-3-yl]-2-ethoxyacetamide | 84.0 mmol, 26.7 g | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCC#C | C16H16ClN3O2
reactant | triethylamine | 126 mmol, 17.5 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 17.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 4-chloro-2-(ethoxymethyl)-1-prop-2-ynyl-1H-imidazo[4,5-c]quinoline | 24.2 g, 96% | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC#C)COCC | C16H14ClN3O
